US07960395B2
d) (2R)-2-[(2-Amino-5-{[(1S)-1-(5-fluoropyridin-2-yl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol
The title compound was prepared by General method A starting from (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol (940 mg, 3.1 mmol) and 2-[(1R)-1-chloroethyl]-5-fluoropyridine (0.81 g, 5.1 mmol). The product was purified by flash column chromatography to yield 0.75 g (56% yield) of the title compound.

reactant | (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 3.1 mmol, 940 mg | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
reactant | 2-[(1R)-1-chloroethyl]-5-fluoropyridine | 5.1 mmol, 0.81 g | Cl[C@H](C)C1=NC=C(C=C1)F | C7H7ClFN
product | (2R)-2-[(2-Amino-5-{[(1S)-1-(5-fluoropyridin-2-yl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 0.75 g, 56% yield | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S[C@@H](C)C2=NC=C(C=C2)F)N1 | C18H23FN6OS2
